US05631286
1a. (3-Cyclopentyloxy-4-methoxyphenyl)acetonitrile
To a solution of 3-cyclopentyloxy-4-methoxybenzaldehyde (20 g, 90.8 mmol) in acetonitrile (10 mL) was added lithium bromide (15 g, 173 mmol) followed by the dropwise addition of trimethylsilylchloride (17.4 mL, 137 mmol). After 15 min, the reaction mixture was cooled to 0° C., 1,1,3,3-tetramethyldisiloxane (26.7 mL, 151 mmol) was added dropwise and the resulting mixture was allowed to warm to room temperature. After stirring for 3 h, the mixture was separated into two layers. The lower layer was removed, diluted with methylene chloride and filtered through Celite. The filtrate was concentrated under reduced pressure, dissolved in methylene chloride and refiltered. The solvent was removed in vacuo to provide a light tan oil. To a solution of this crude a-bromo-3-cyclopentyloxy-4-methoxyolunene in dimethylformamide (160 mL) under an argon atmosphere was added sodium cyanide (10.1 g, 206 mmol) and the resulting mixture was stirred at room temperature for 18 h, then poured into cold water (600 mL) and extracted three times with ether. The organic extract was washed three times with water, once with brine and was dried (potassium carbonate). The solvent was removed in vacuo and the residue was purified by flash chromatography, eluting with 10% ethyl acetate/hexanes, to provide an off-white solid (17.7 g, 84%): m.p. 32°-34° C.; an additional quantity (1.3 g) of slightly impure material also was isolated.

reactant | 3-cyclopentyloxy-4-methoxybenzaldehyde | 90.8 mmol, 20 g | C1(CCCC1)OC=1C=C(C=O)C=CC1OC | C13H16O3
reactant | lithium bromide | 173 mmol, 15 g | [Br-].[Li+]
reactant | trimethylsilylchloride | 137 mmol, 17.4 mL | C[Si](C)(C)Cl | C3H9ClSi
reactant | 1,1,3,3-tetramethyldisiloxane | 151 mmol, 26.7 mL | C[SiH](O[SiH](C)C)C | C4H14OSi2
reactant | sodium cyanide | 206 mmol, 10.1 g | [C-]#N.[Na+]
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
solvent | dimethylformamide | 160 mL | CN(C=O)C | C3H7NO
solvent | water | 600 mL | O | H2O
product | (3-Cyclopentyloxy-4-methoxyphenyl)acetonitrile | 17.7 g, 84% | C1(CCCC1)OC=1C=C(C=CC1OC)CC#N | C14H17NO2
